* C:\FOSSEE\eSim\library\SubcircuitLibrary\CD4049\CD4049.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 05/29/25 20:29:52

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
D2  Net-_D1-Pad1_ Net-_D2-Pad2_ eSim_Diode		
D5  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D3  Net-_D1-Pad1_ Net-_D2-Pad2_ eSim_Diode		
D1  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D4  Net-_D1-Pad1_ Net-_D4-Pad2_ eSim_Diode		
M2  Net-_M1-Pad1_ Net-_D4-Pad2_ Net-_D1-Pad2_ Net-_D1-Pad2_ eSim_MOS_P		
M1  Net-_M1-Pad1_ Net-_D4-Pad2_ Net-_D1-Pad1_ Net-_D1-Pad1_ eSim_MOS_N		
R1  Net-_D2-Pad2_ Net-_D4-Pad2_ 1k		
U1  Net-_D1-Pad2_ Net-_M1-Pad1_ Net-_D2-Pad2_ Net-_M3-Pad1_ Net-_D7-Pad2_ Net-_M5-Pad1_ Net-_D12-Pad2_ Net-_D1-Pad1_ Net-_D17-Pad2_ Net-_M7-Pad1_ Net-_D22-Pad2_ Net-_M10-Pad1_ ? Net-_D27-Pad2_ Net-_M11-Pad1_ ? PORT		
D7  Net-_D1-Pad1_ Net-_D7-Pad2_ eSim_Diode		
D10  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D8  Net-_D1-Pad1_ Net-_D7-Pad2_ eSim_Diode		
D6  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D9  Net-_D1-Pad1_ Net-_D9-Pad2_ eSim_Diode		
M4  Net-_M3-Pad1_ Net-_D9-Pad2_ Net-_D1-Pad2_ Net-_D1-Pad2_ eSim_MOS_P		
M3  Net-_M3-Pad1_ Net-_D9-Pad2_ Net-_D1-Pad1_ Net-_D1-Pad1_ eSim_MOS_N		
R2  Net-_D7-Pad2_ Net-_D9-Pad2_ 1k		
D12  Net-_D1-Pad1_ Net-_D12-Pad2_ eSim_Diode		
D15  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D13  Net-_D1-Pad1_ Net-_D12-Pad2_ eSim_Diode		
D11  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D14  Net-_D1-Pad1_ Net-_D14-Pad2_ eSim_Diode		
M6  Net-_M5-Pad1_ Net-_D14-Pad2_ Net-_D1-Pad2_ Net-_D1-Pad2_ eSim_MOS_P		
M5  Net-_M5-Pad1_ Net-_D14-Pad2_ Net-_D1-Pad1_ Net-_D1-Pad1_ eSim_MOS_N		
R3  Net-_D12-Pad2_ Net-_D14-Pad2_ 1k		
D17  Net-_D1-Pad1_ Net-_D17-Pad2_ eSim_Diode		
D20  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D18  Net-_D1-Pad1_ Net-_D17-Pad2_ eSim_Diode		
D16  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D19  Net-_D1-Pad1_ Net-_D19-Pad2_ eSim_Diode		
M8  Net-_M7-Pad1_ Net-_D19-Pad2_ Net-_D1-Pad2_ Net-_D1-Pad2_ eSim_MOS_P		
M7  Net-_M7-Pad1_ Net-_D19-Pad2_ Net-_D1-Pad1_ Net-_D1-Pad1_ eSim_MOS_N		
R4  Net-_D17-Pad2_ Net-_D19-Pad2_ 1k		
D22  Net-_D1-Pad1_ Net-_D22-Pad2_ eSim_Diode		
D25  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D23  Net-_D1-Pad1_ Net-_D22-Pad2_ eSim_Diode		
D21  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D24  Net-_D1-Pad1_ Net-_D24-Pad2_ eSim_Diode		
M10  Net-_M10-Pad1_ Net-_D24-Pad2_ Net-_D1-Pad2_ Net-_D1-Pad2_ eSim_MOS_P		
M9  Net-_M10-Pad1_ Net-_D24-Pad2_ Net-_D1-Pad1_ Net-_D1-Pad1_ eSim_MOS_N		
R5  Net-_D22-Pad2_ Net-_D24-Pad2_ 1k		
D27  Net-_D1-Pad1_ Net-_D27-Pad2_ eSim_Diode		
D30  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D28  Net-_D1-Pad1_ Net-_D27-Pad2_ eSim_Diode		
D26  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
D29  Net-_D1-Pad1_ Net-_D29-Pad2_ eSim_Diode		
M12  Net-_M11-Pad1_ Net-_D29-Pad2_ Net-_D1-Pad2_ Net-_D1-Pad2_ eSim_MOS_P		
M11  Net-_M11-Pad1_ Net-_D29-Pad2_ Net-_D1-Pad1_ Net-_D1-Pad1_ eSim_MOS_N		
R6  Net-_D27-Pad2_ Net-_D29-Pad2_ 1k		

.end
