* Subcircuit CD4049
.subckt CD4049 net-_d1-pad2_ net-_m1-pad1_ net-_d2-pad2_ net-_m3-pad1_ net-_d7-pad2_ net-_m5-pad1_ net-_d12-pad2_ net-_d1-pad1_ net-_d17-pad2_ net-_m7-pad1_ net-_d22-pad2_ net-_m10-pad1_ ? net-_d27-pad2_ net-_m11-pad1_ ? 
* c:\fossee\esim\library\subcircuitlibrary\cd4049\cd4049.cir
.include PMOS-5um.lib
.include NMOS-5um.lib
.include D.lib
d2 net-_d1-pad1_ net-_d2-pad2_ 1N4148
d5 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d3 net-_d1-pad1_ net-_d2-pad2_ 1N4148
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d4 net-_d1-pad1_ net-_d4-pad2_ 1N4148
m2 net-_m1-pad1_ net-_d4-pad2_ net-_d1-pad2_ net-_d1-pad2_ mos_p W=100u L=100u M=1
m1 net-_m1-pad1_ net-_d4-pad2_ net-_d1-pad1_ net-_d1-pad1_ mos_n W=100u L=100u M=1
r1  net-_d2-pad2_ net-_d4-pad2_ 1k
d7 net-_d1-pad1_ net-_d7-pad2_ 1N4148
d10 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d8 net-_d1-pad1_ net-_d7-pad2_ 1N4148
d6 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d9 net-_d1-pad1_ net-_d9-pad2_ 1N4148
m4 net-_m3-pad1_ net-_d9-pad2_ net-_d1-pad2_ net-_d1-pad2_ mos_p W=100u L=100u M=1
m3 net-_m3-pad1_ net-_d9-pad2_ net-_d1-pad1_ net-_d1-pad1_ mos_n W=100u L=100u M=1
r2  net-_d7-pad2_ net-_d9-pad2_ 1k
d12 net-_d1-pad1_ net-_d12-pad2_ 1N4148
d15 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d13 net-_d1-pad1_ net-_d12-pad2_ 1N4148
d11 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d14 net-_d1-pad1_ net-_d14-pad2_ 1N4148
m6 net-_m5-pad1_ net-_d14-pad2_ net-_d1-pad2_ net-_d1-pad2_ mos_p W=100u L=100u M=1
m5 net-_m5-pad1_ net-_d14-pad2_ net-_d1-pad1_ net-_d1-pad1_ mos_n W=100u L=100u M=1
r3  net-_d12-pad2_ net-_d14-pad2_ 1k
d17 net-_d1-pad1_ net-_d17-pad2_ 1N4148
d20 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d18 net-_d1-pad1_ net-_d17-pad2_ 1N4148
d16 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d19 net-_d1-pad1_ net-_d19-pad2_ 1N4148
m8 net-_m7-pad1_ net-_d19-pad2_ net-_d1-pad2_ net-_d1-pad2_ mos_p W=100u L=100u M=1
m7 net-_m7-pad1_ net-_d19-pad2_ net-_d1-pad1_ net-_d1-pad1_ mos_n W=100u L=100u M=1
r4  net-_d17-pad2_ net-_d19-pad2_ 1k
d22 net-_d1-pad1_ net-_d22-pad2_ 1N4148
d25 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d23 net-_d1-pad1_ net-_d22-pad2_ 1N4148
d21 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d24 net-_d1-pad1_ net-_d24-pad2_ 1N4148
m10 net-_m10-pad1_ net-_d24-pad2_ net-_d1-pad2_ net-_d1-pad2_ mos_p W=100u L=100u M=1
m9 net-_m10-pad1_ net-_d24-pad2_ net-_d1-pad1_ net-_d1-pad1_ mos_n W=100u L=100u M=1
r5  net-_d22-pad2_ net-_d24-pad2_ 1k
d27 net-_d1-pad1_ net-_d27-pad2_ 1N4148
d30 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d28 net-_d1-pad1_ net-_d27-pad2_ 1N4148
d26 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d29 net-_d1-pad1_ net-_d29-pad2_ 1N4148
m12 net-_m11-pad1_ net-_d29-pad2_ net-_d1-pad2_ net-_d1-pad2_ mos_p W=100u L=100u M=1
m11 net-_m11-pad1_ net-_d29-pad2_ net-_d1-pad1_ net-_d1-pad1_ mos_n W=100u L=100u M=1
r6  net-_d27-pad2_ net-_d29-pad2_ 1k
* Control Statements

.ends CD4049