* c:\users\pavithra\esim-workspace\cd4049_test\cd4049_test.cir

.include CD4049.sub
v2 net-_x1-pad1_ gnd  dc 5
v1  in gnd pulse(0 5 2m 0.1n 0.1n 1m 2m)
* u1  out plot_v1
x1 net-_x1-pad1_ out in ? ? ? ? gnd ? ? ? ? ? ? ? ? CD4049
* u2  in plot_v1
.tran 10e-06 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)+ 6 v(in)
.endc
.end
