* C:\FOSSEE\eSim\library\SubcircuitLibrary\CD40106B\CD40106B.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 01/16/26 00:52:38

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M4  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M3-Pad1_ VDD eSim_MOS_P		
M3  Net-_M3-Pad1_ Net-_M1-Pad2_ VDD VDD eSim_MOS_P		
M5  GND Net-_M1-Pad1_ Net-_M3-Pad1_ VDD eSim_MOS_P		
M1  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M1-Pad3_ GND eSim_MOS_N		
M2  Net-_M1-Pad3_ Net-_M1-Pad2_ GND GND eSim_MOS_N		
M6  VDD Net-_M1-Pad1_ Net-_M1-Pad3_ GND eSim_MOS_N		
M16  Net-_M13-Pad1_ Net-_M13-Pad2_ Net-_M15-Pad1_ VDD eSim_MOS_P		
M15  Net-_M15-Pad1_ Net-_M13-Pad2_ VDD VDD eSim_MOS_P		
M21  GND Net-_M13-Pad1_ Net-_M15-Pad1_ VDD eSim_MOS_P		
M13  Net-_M13-Pad1_ Net-_M13-Pad2_ Net-_M13-Pad3_ GND eSim_MOS_N		
M14  Net-_M13-Pad3_ Net-_M13-Pad2_ GND GND eSim_MOS_N		
M22  VDD Net-_M13-Pad1_ Net-_M13-Pad3_ GND eSim_MOS_N		
M28  Net-_M25-Pad1_ Net-_M25-Pad2_ Net-_M27-Pad1_ VDD eSim_MOS_P		
M27  Net-_M27-Pad1_ Net-_M25-Pad2_ VDD VDD eSim_MOS_P		
M29  GND Net-_M25-Pad1_ Net-_M27-Pad1_ VDD eSim_MOS_P		
M25  Net-_M25-Pad1_ Net-_M25-Pad2_ Net-_M25-Pad3_ GND eSim_MOS_N		
M26  Net-_M25-Pad3_ Net-_M25-Pad2_ GND GND eSim_MOS_N		
M30  VDD Net-_M25-Pad1_ Net-_M25-Pad3_ GND eSim_MOS_N		
M34  Net-_M31-Pad1_ Net-_M31-Pad2_ Net-_M33-Pad1_ VDD eSim_MOS_P		
M33  Net-_M33-Pad1_ Net-_M31-Pad2_ VDD VDD eSim_MOS_P		
M35  GND Net-_M31-Pad1_ Net-_M33-Pad1_ VDD eSim_MOS_P		
M31  Net-_M31-Pad1_ Net-_M31-Pad2_ Net-_M31-Pad3_ GND eSim_MOS_N		
M32  Net-_M31-Pad3_ Net-_M31-Pad2_ GND GND eSim_MOS_N		
M36  VDD Net-_M31-Pad1_ Net-_M31-Pad3_ GND eSim_MOS_N		
M10  Net-_M10-Pad1_ Net-_M10-Pad2_ Net-_M10-Pad3_ VDD eSim_MOS_P		
M9  Net-_M10-Pad3_ Net-_M10-Pad2_ VDD VDD eSim_MOS_P		
M11  GND Net-_M10-Pad1_ Net-_M10-Pad3_ VDD eSim_MOS_P		
M7  Net-_M10-Pad1_ Net-_M10-Pad2_ Net-_M12-Pad3_ GND eSim_MOS_N		
M8  Net-_M12-Pad3_ Net-_M10-Pad2_ GND GND eSim_MOS_N		
M12  VDD Net-_M10-Pad1_ Net-_M12-Pad3_ GND eSim_MOS_N		
M20  Net-_M17-Pad1_ Net-_M17-Pad2_ Net-_M19-Pad1_ VDD eSim_MOS_P		
M19  Net-_M19-Pad1_ Net-_M17-Pad2_ VDD VDD eSim_MOS_P		
M23  GND Net-_M17-Pad1_ Net-_M19-Pad1_ VDD eSim_MOS_P		
M17  Net-_M17-Pad1_ Net-_M17-Pad2_ Net-_M17-Pad3_ GND eSim_MOS_N		
M18  Net-_M17-Pad3_ Net-_M17-Pad2_ GND GND eSim_MOS_N		
M24  VDD Net-_M17-Pad1_ Net-_M17-Pad3_ GND eSim_MOS_N		
U1  Net-_M1-Pad2_ Net-_M10-Pad2_ GND Net-_M1-Pad1_ Net-_M13-Pad2_ Net-_M17-Pad2_ Net-_M10-Pad1_ Net-_M13-Pad1_ Net-_M25-Pad2_ Net-_M17-Pad1_ VDD Net-_M31-Pad2_ Net-_M25-Pad1_ Net-_M31-Pad1_ PORT		

.end
